US07511145B2
Step 1: 4-methyl-3-nitro-benzoic acid methyl ester (Compound 405a)
4-Methyl-3-nitro benzoic acid (12.5 g, 69 mmol) was dissolved in anhydrous methanol (500 mL) in a 1 L flask. HCl gas was then bubbled through the solution until saturation (3 h). The HCl source was then removed, and the reaction was stirred at room temperature overnight. The reaction was then concentrated to dryness and dried over phosphorus pentoxide overnight to yield 13.34 g (99%) of product which was 99% pure by QC HPLC.

reactant | 4-Methyl-3-nitro benzoic acid | 69 mmol, 12.5 g | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | methanol | 500 mL | CO | CH4O
product | 4-methyl-3-nitro-benzoic acid methyl ester | 13.34 g, 99% | COC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C9H9NO4
